US05292454
11.2 g of anhydrous zinc bromide in 25 ml of THF are added dropwise at about 0° to a Grignard solution prepared from 20 g of 4-n-propylbromobenzene and 2.4 g of magnesium turnings in 100 ml of THF. After the mixture has been stirred for 2 hours, a mixture of 22.5 g of 4-bromotrifluorotoluene, 1.5 g of [(diphenylphosphine)ferrocenyl]palladium(II) chloride and 25 ml of THF is added dropwise, and the mixture is stirred for 24 hours at room temperature and poured into 100 ml of saturated ammonium chloride solution. Customary work-up gives 4-(4-n-propylphenyl)trifluorotoluene, M.p. 97° C., Δε=14.2, viscosity η (20° C.)=6 mm2 /s.

reactant | 4-n-propylbromobenzene | 20 g | C(CC)C1=CC=C(C=C1)Br | C9H11Br
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | 4-bromotrifluorotoluene | 22.5 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | zinc bromide | 11.2 g | [Br-].[Zn+2].[Br-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-(4-n-propylphenyl)trifluorotoluene | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C16H15F3
